US08106043B2
N-(4-(Piperidin-4-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride:
To a solution of N-(4-(piperidin-4-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide (210 mg, 0.586 mmol) in methanol (4 mL) was added hydrogen chloride (1 M in diethyl ether; 1.757 mL, 1.757 mmol). The resulting solution was concentrated in vacuo to give a pale yellow solid (252 mg, 100%). 1H NMR (DMSO-d6) δ 11.45 (s, 1H), 9.76 (s, 1H), 9.22 (s, 2H), 8.75 (s, 1H), 7.40-7.34 (m, 1H), 7.13 (d, J=8.1 Hz, 1H), 7.02 (s, 1H), 6.64 (d, J=8.1 Hz, 1H), 4.02-3.92 (m, 1H), 3.46-3.39 (m, 2H), 3.37-3.26 (m, 2H), 3.12-2.91 (m, 4H), 2.15-1.98 (m, 2H), 1.86-1.78 (m, 2H); HRMS (C18H23N4S2, MH+, free base): calculated: 359.1358, observed: 359.1351. HPLC purity: 97% by area.

reactant | N-(4-(piperidin-4-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide | 0.586 mmol, 210 mg | N1CCC(CC1)N1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | C18H22N4S2
reactant | hydrogen chloride | 1.757 mmol, 1 M, 1.757 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | N-(4-(Piperidin-4-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride | 252 mg, 100% | Cl.Cl.N1CCC(CC1)N1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | InChI=1S/C18H22N4S2.2ClH/c19-18(17-2-1-10-23-17)21-13-3-4-16-15(12-13)22(9-11-24-16)14-5-7-20-8-6-14;;/h1-4,10,12,14,20H,5-9,11H2,(H2,19,21);2*1H
